Name:  ___                       Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Transfer for STEMI (Presented to ___ with chest pain)
 
Major Surgical or Invasive Procedure:
___ Coronary angiogram

 
History of Present Illness:
___ with hyperlipidemia who presented initially to ___ 
with vomiting and shortness of breath, subsequently found to ST 
elevations on EKG concerning for STEMI, prompting transfer to 
___ for coronary angiogram.

Pt reports that she woke up on the morning of admission feeling 
very nauseated and short of breath. After this persisted for a 
few hours, despite OTC anti-nausea syrup, she went to the ED at 
___. At ___, examination was within normal 
limits. EKG revealed ST elevation in V1-V2, and ST depression in 
II, III, aVF, concerning for STEMI. Troponin-T was elevated at 
0.46. Patient was transferred to ___ for further management. 

Admitted directly to cath lab, where a 90-99% stenosis of the 
proximal and mid segments of the LAD was identified, and a DES 
placed. There was also a 50% stenosis of D1 arising from the 
proximal segment and 40% stenosis of the ostial LCx. LMCA and 
RCA were without significant disease. Access was via right 
radial
approach. Patient was loaded with aspirin and Plavix prior to 
cath.  

Upon arrival to the floor, the patient reports feeling sleepy 
but otherwise well. She has never had any sort of episode like 
this before. Never had any chest/shoulder/neck/jaw pain during 
episode. Currently denies lightheadedness, chest pain/pressure, 
shortness of breath, dyspnea on exertion, nausea, abdominal 
pain, lower extremity edema.
 
Past Medical History:
- Hyperlipidemia
 
Social History:
___
Family History:
Denies family history of heart attack, heart disease, sudden 
cardiac death, CVA.
 
Physical Exam:
===============================
ADMISSION PHYSICAL EXAMINATION:
===============================

VS: T 98.9, BP 94/50, HR 64, RR 18, SpO2 98/RA

GENERAL: well-appearing lady, lying propped up in bed, NAD.
HEENT: NC AT, PERRL. OP clear.
NECK: No JVP seen when sitting upright.
CV: RRR, S1+S2, no M/R/G
RESP: CTAB, no W/R/C
___: non-distended, soft, non-tender
EXTREMITIES: WWP, no edema. Distal pulses 2+. Tegederm over 
right wrist, dressing is clean and dry. No hematoma over R 
wrist.
NEURO: alert, interactive, moving all 4 extremities with 
purpose.

===============================
DISCHARGE PHYSICAL EXAMINATION:
===============================
24 HR Data (last updated ___ @ 822)
    Temp: 98.5 (Tm 99.2), BP: 97/62 (87-99/53-65), HR: 70
(65-78), RR: 16 (___), O2 sat: 98% (97-99), O2 delivery: RA  

GENERAL: sitting comfortably in bed, no acute distress
HEENT: no conjunctival pallor, anicteric sclera, MMM
NECK: supple, non-tender, no JVD
CV: RRR, S1 and S2 normal, no murmurs/rubs/gallops
RESP: CTAB, no wheezes/crackles, breathing comfortably 
___: soft, non-distended, non-tender, BS normoactive
EXTREMITIES: warm, well perfused, no lower extremity edema, 
right
radial access without hematoma, dressing clean/dry/intact
NEURO: A/O x3, otherwise grossly intact 

 
Pertinent Results:
===============
ADMISSION LABS:
===============

___ 09:18PM BLOOD WBC-9.5 RBC-3.86* Hgb-12.0 Hct-36.4 
MCV-94 MCH-31.1 MCHC-33.0 RDW-12.9 RDWSD-44.2 Plt ___
___ 09:18PM BLOOD Glucose-171* UreaN-10 Creat-0.7 Na-140 
K-3.4* Cl-104 HCO3-22 AnGap-14
___ 09:18PM BLOOD ALT-45* AST-196* AlkPhos-61 TotBili-0.3
___ 09:18PM BLOOD Calcium-8.6 Phos-2.6* Mg-1.9 Cholest-228*
___ 09:18PM BLOOD %HbA1c-5.5 eAG-111
___ 09:18PM BLOOD Triglyc-94 HDL-54 CHOL/HD-4.2 
LDLcalc-155*

====================
OTHER PERTINENT LABS:
====================
N/A

======
MICRO:
======

No microbiological investigations performed 

================
IMAGING/REPORTS:
================

___ CORONARY ANGIOGRAM
The coronary circulation is right dominant. The Left Main, 
arising from the left cusp, is a large caliber vessel. This 
vessel bifurcates into the
Left Anterior Descending and Left Circumflex systems. The Left 
Anterior Descending artery, which arises from the LM, is a large 
caliber vessel
proximally with tapering after a diagonal branch. There is a 
90-99% stenosis in the proximal and mid segments. The Diagonal, 
arising from the proximal segment, is a medium caliber vessel 
with ~50% stenosis. The Circumflex artery, which arises from the 
LM, is a small caliber vessel. There is a 40% stenosis in the 
ostium. The Right Coronary Artery, arising from the right cusp, 
is a large caliber vessel. There is diffuse mild disease.

___ TTE
The left atrial volume index is normal. There is no evidence for 
an atrial septal defect by 2D/color Doppler. The estimated right 
atrial pressure is ___ mmHg. There is normal left ventricular 
wall thickness with a normal cavity size. There is mild regional 
left ventricular systolic dysfunction with hypokinesis of the 
mid to distal anteroseptal and anterior walls and apex (see 
schematic) and preserved/normal contractility of the remaining 
segments. A left ventricular thrombus/mass cannot be excluded. 
The visually estimated left ventricular ejection fraction is 
45-50%. There is no resting left ventricular outflow tract 
gradient. Normal right ventricular cavity size with normal free 
wall motion. The aortic sinus diameter is normal for gender with 
normal ascending aorta diameter for gender. The aortic arch 
diameter is normal. There is no evidence for an aortic arch 
coarctation. The aortic valve leaflets (3) are mildly thickened. 
There is no aortic valve stenosis. There is no aortic 
regurgitation. The mitral valve leaflets appear structurally 
normal with no mitral valve prolapse. There is trivial mitral 
regurgitation. The tricuspid valve leaflets appear structurally 
normal. There is physiologic tricuspid regurgitation. The 
pulmonary artery systolic pressure could not be estimated. There 
is no pericardial effusion.

===============
DISCHARGE LABS:
===============
___ 07:59AM BLOOD WBC-6.7 RBC-3.99 Hgb-12.2 Hct-37.8 MCV-95 
MCH-30.6 MCHC-32.3 RDW-12.8 RDWSD-44.5 Plt ___
___ 07:59AM BLOOD Glucose-84 UreaN-11 Creat-0.6 Na-144 
K-4.0 Cl-105 HCO3-28 AnGap-11
___ 07:59AM BLOOD ALT-39 AST-78* AlkPhos-60 TotBili-0.4
___ 07:59AM BLOOD Calcium-8.9 Phos-3.6 Mg-1.___ with hyperlipidemia who presented initially to ___ 
with vomiting and shortness of breath, subsequently found to ST 
elevations on EKG concerning for STEMI, transferred to ___ for 
cath.

====================
ACUTE/ACTIVE ISSUES:
====================

# STEMI
# Coronary artery disease
Patient presented initially to ___ with vomiting and 
shortness of breath. Found to have troponin-T of 0.16 and EKG 
with ST elevations in V1-V2 and reciprocal ST depressions in II, 
III, aVF, concerning for STEMI. Transferred to ___, where 
coronary angiogram revealed a 90-99% stenosis of the proximal 
and mid LAD. Successful DES placed, with 0% residual stenosis 
and no dissection. Otherwise coronary angiogram revealed 50% 
stenosis of proximal diagonal and 40% stenosis of ostial LCx. 
HbA1c 5.5%, total cholesterol 228 and LDL of 155. TTE 
demonstrated normal left ventricular wall thickness and cavity 
size with mild regional systolic dysfunction, consistent with 
CAD in an LAD distribution. EF was 45-50%. TTE with contrast did 
not show evidence of LV thrombus. Will be discharged on aspirin 
81mg daily, clopidogrel 75mg, atorvastatin 80mg daily and 
metoprolol succinate 12.5mg daily. Unable to start ___ 
given soft blood pressures during admission.

# Transaminitis 
Found to have elevated LFTs, AST>ALT, with normal ALP and total 
bilirubin. Patient rarely drinks alcohol, normal BMI, HbA1c 
5.5%, and lipid panel only notable for total cholesterol 228 and 
LDL 152. Of note, did start atorvastatin 40mg in ___, 
otherwise no other medication changes. Examination without RUQ 
tenderness and negative ___ sign. Most likely secondary to 
myocardial ischemia and necrosis, given preferential rise in 
AST. 

======================
CHRONIC/STABLE ISSUES:
======================

# HLD
Increased atorvastatin to 80mg daily.

# Vitamin D deficiency
Continued vitamin D 1000U daily

====================
TRANSITIONAL ISSUES:
====================

- discharge creatinine 0.6
- discharge ALT/AST ___

MEDICATION CHANGES:
[] started aspirin 81mg daily
[] started clopidogrel 75mg daily
[] started metoprolol succinate 12.5mg daily
[] increased atorvastatin 80mg QPM 

[] DAPT: important to continue aspirin 81mg and clopidogrel 75mg 
daily for minimum 12 months 
[] ___: close monitoring of BP; recommend addition of 
___ to prevent remodeling if BP tolerates
[] EF 45-50%: recommend repeat TTE in ___ weeks to evaluate for 
improved EF
[] HLD: recommend repeat lipid panel in ___ weeks to evaluate 
for need for second agent
[] LFTs: repeat LFTs at next PCP appointment to ensure 
resolution of same

============================================
# CODE STATUS: Full
# CONTACT: ___, husband, ___
 
Medications on Admission:
1. Vitamin D 1000 UNIT PO DAILY 
2. Atorvastatin 40 mg PO QPM 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Clopidogrel 75 mg PO DAILY  
3.  Atorvastatin 80 mg PO QPM  
4.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
==================
PRIMARY DIAGNOSES:
==================

ST elevation myocardial infarction, with drug eluting stent 
placed to LAD
Transaminitis 

====================
SECONDARY DIAGNOSES:
====================

Hyperlipidemia
Vitamin D deficiency

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

WHY YOU CAME TO THE HOSPITAL
You were transferred to ___ as you were having a heart attack

WHAT HAPPENED WHILE YOU WERE IN THE HOSPITAL
- Coronary angiogram showed you had a blockage in a blood vessel 
in your heart
- You had a stent placed to open this blockage
- Ultrasound of your heart showed it was pumping well 

WHAT YOU NEED TO DO WHEN YOU LEAVE THE HOSPITAL
- You need to follow-up with your PCP as arranged
- We will arrange for you to see a cardiologist 
- It is important you continue to take all your medications as 
prescribed

It was a pleasure taking care of you!

Your ___ Healthcare Team

MEDICATION CHANGES:
[] started aspirin 81mg daily
[] started clopidogrel 75mg daily
[] started metoprolol succinate 12.5mg daily
[] increased atorvastatin 80mg QPM 
 
Followup Instructions:
___